US04307088
Under the conditions of Example 2, 200 mg of 17α-ethynyl-1α,17-dihydroxy-18-methyl-4,15-estradien-3-one is reacted with butyric anhydride, thus obtaining 140 mg of 17α-ethynyl-1α-butyryloxy-17-hydroxy-18-methyl-4,15-estradien-3-one of oily consistency.

reactant | 17α-ethynyl-1α,17-dihydroxy-18-methyl-4,15-estradien-3-one | 200 mg | C(#C)[C@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(C[C@@H]([C@@H]3[C@H]1CC2)O)=O)O | C21H26O3
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 17α-ethynyl-1α-butyryloxy-17-hydroxy-18-methyl-4,15-estradien-3-one | 140 mg | C(#C)[C@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(C[C@@H]([C@@H]3[C@H]1CC2)OC(CCC)=O)=O)O | C25H32O4
